### PR TITLE
feat(RingTheory/Noetherian): injective modules over a Noetherian ring…

### PR DESCRIPTION
**Pull request by LAC1213**
… surject onto localizations by powers of an element. [Hartshorne III.3.3]

Disclaimer: I used Claude to help me find the names of useful lemmas and definitions and explain lean errors to me. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 1]
```diff
@@ -0,0 +1,143 @@
...
+
+public section
+
+universe u
+
+variable {R : Type u} [CommRing R]
+
+set_option backward.privateInPublic true in
+/-- `𝔟 i` is the annihilator of `f ^ i` in `R`. -/
+private abbrev ideal_b (f : R) (i : ℕ) : Ideal R := Ideal.torsionOf R R (f ^ i)
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: Is this needed?  Just writing `Ideal.torsionOf R R (f ^ i)` isn't that long, and I wonder if using this abbrev will hurt readability.

The annihilator of an element can also be written as `(R ∙ (f ^ i)).annihilator`.  (See `Ideal.annihilator_span_singleton_eq_torsionOf`)  Would it be better to use this spelling instead?  Which has more API or makes things easier to prove?

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 2]
```diff
@@ -0,0 +1,143 @@
...
+    ring_nf
+  rw [h, smul_eq_mul]
+  rw [smul_eq_mul] at ha
+  rw [← mul_assoc, ha]
+  exact zero_mul _
+
+set_option backward.privateInPublic true in
+private abbrev ideal_b_order_hom (f : R) : ℕ →o Ideal R := ⟨ideal_b f, ascending_ideal_b f⟩
+
+private abbrev ideal_p (f : R) (i : ℕ) : Ideal R := Ideal.span {f ^ i}
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: I would remove both of these abbrevs.  They are used infrequently, not much shorter, and especially `ideal_p` makes it harder to read than the standard spelling of `Ideal.span {f ^ i}`.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 3]
```diff
@@ -0,0 +1,143 @@
...
+
+set_option backward.privateInPublic true in
+private lemma exists_divide_by_fn_map (f : R) (n : ℕ) (r : ℕ)
+    (hr : ∀ (i : ℕ), ideal_b f (r + i) = ideal_b f r)
+    {M : Type u} [AddCommGroup M] [Module R M] (y : M) :
+    ∃ phi : ideal_p f (r + n) →ₗ[R] M,
+      phi ⟨f ^ (r + n), Ideal.mem_span_singleton_self _⟩ = f ^ r • y := by
+        have hker0 : ideal_b f r ≤ LinearMap.ker (LinearMap.toSpanSingleton R M (f ^ r • y)) := by
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: The proof body should be indented by only 2 spaces.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 4]
```diff
@@ -0,0 +1,143 @@
...
+        use a
+        rw [hn]
+        symm
+        exact hs
+      choose n h1 using h
+      choose a ha using h1
+      choose r hr using stabilize_ideal_b f
+      choose phi hphi using exists_divide_by_fn_map f n r hr a
+      choose psi hpsi using hI (ideal_p f (r + n)) phi
+      let z := psi 1
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: I would just write `psi 1` throughout.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 5]
```diff
@@ -0,0 +1,143 @@
...
+      have hz : f ^ (r + n) • z = f ^ r • a := by
+        rw [← psi.map_smul (f ^ (r + n)) (1 : R)]
+        rw [smul_eq_mul, mul_one, ← hphi]
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]:
```suggestion
        rw [← psi.map_smul (f ^ (r + n)) (1 : R), smul_eq_mul, mul_one, ← hphi]
```

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 6]
```diff
@@ -0,0 +1,143 @@
...
+        exact hpsi _ _
+      have hz2 : f ^ (r + n) • (g z) = f ^ (r) • (f ^ n • x) := by
+        rw [← ha, ← g.map_smul, ← g.map_smul]
+        exact congrArg g hz
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]:
```suggestion
        rw [← ha, ← g.map_smul, ← g.map_smul, hz]
```

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 7]
```diff
@@ -0,0 +1,143 @@
...
+      choose a ha using h1
+      choose r hr using stabilize_ideal_b f
+      choose phi hphi using exists_divide_by_fn_map f n r hr a
+      choose psi hpsi using hI (ideal_p f (r + n)) phi
+      let z := psi 1
+      have hz : f ^ (r + n) • z = f ^ r • a := by
+        rw [← psi.map_smul (f ^ (r + n)) (1 : R)]
+        rw [smul_eq_mul, mul_one, ← hphi]
+        exact hpsi _ _
+      have hz2 : f ^ (r + n) • (g z) = f ^ (r) • (f ^ n • x) := by
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]:
```suggestion
      have hz2 : f ^ (r + n) • (g z) = f ^ r • (f ^ n • x) := by
```

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 8]
```diff
@@ -0,0 +1,143 @@
...
+        obtain ⟨⟨a, s⟩, hs⟩ := IsLocalizedModule.surj (Submonoid.powers f) g x
+        choose n hn using (Submonoid.mem_powers_iff s.1 f).1 s.2
+        use n
+        use a
+        rw [hn]
+        symm
+        exact hs
+      choose n h1 using h
+      choose a ha using h1
+      choose r hr using stabilize_ideal_b f
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]:
```suggestion
     obtain ⟨n, a, ha⟩ : ∃ (n : ℕ) (a : I), g a = f ^ n • x := by
        obtain ⟨⟨a, s⟩, hs⟩ := IsLocalizedModule.surj (Submonoid.powers f) g x
        choose n hn using (Submonoid.mem_powers_iff s.1 f).1 s.2
        use n, a
        exact hn ▸ hs.symm
      choose r hr using stabilize_ideal_b f
```

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 9]
```diff
@@ -0,0 +1,143 @@
...
+universe u
+
+variable {R : Type u} [CommRing R]
+
+set_option backward.privateInPublic true in
+/-- `𝔟 i` is the annihilator of `f ^ i` in `R`. -/
+private abbrev ideal_b (f : R) (i : ℕ) : Ideal R := Ideal.torsionOf R R (f ^ i)
+
+set_option backward.privateInPublic true in
+private lemma ascending_ideal_b (f : R) : Monotone (ideal_b f) := by
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: Can this be proved by showing a more general lemma about `Ideal.torsionOf` being monotone (wrt division) and then using that powers of f divide each other?  If the proof is not much worse, then I suspect this would be a useful lemma about `Ideal.torsionOf` to have.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 10]
```diff
@@ -0,0 +1,143 @@
...
+  rw [smul_eq_mul] at ha
+  rw [← mul_assoc, ha]
+  exact zero_mul _
+
+set_option backward.privateInPublic true in
+private abbrev ideal_b_order_hom (f : R) : ℕ →o Ideal R := ⟨ideal_b f, ascending_ideal_b f⟩
+
+private abbrev ideal_p (f : R) (i : ℕ) : Ideal R := Ideal.span {f ^ i}
+
+set_option backward.privateInPublic true in
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: Adding all these `set_option backward.privateInPublic true` throughout concerns me.  These are labeled as strong tech debt, so we should avoid adding them if possible.  However, I don't know enough about this option to know if it is necessary or how to remove it.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 11]
```diff
@@ -0,0 +1,143 @@
...
+        exact congrArg g hz
+      use z
+      have s_mem : f ^ (r + n) ∈ Submonoid.powers f :=
+        (Submonoid.mem_powers_iff (f ^ (r + n)) f).mpr ⟨r + n, rfl⟩
+      have hbij : Function.Bijective
+          (algebraMap R (Module.End R I') (⟨f ^ (r + n), s_mem⟩ : Submonoid.powers f)) :=
+        (Module.End.isUnit_iff _).mp (IsLocalizedModule.map_units g ⟨f ^ (r + n), s_mem⟩)
+      apply hbij.1
+      change f ^ (r + n) • (g z) = f ^ (r + n) • x
+      rw [hz2, smul_smul, ← pow_add]
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: Possible golf: Can the proof be slightly restructured to not use `have hz` and `have hz2`, but instead just do all the rewrites at the end?

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean (hunk 10 above)
Comment (robin-carlier) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: I looked at it and all of these can be removed I think.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean (hunk 1 above)
Comment (robin-carlier) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: `Ideal.annihilator_span_singleton_eq_torsionOf` being a `simp` lemma, it is better to keep the `torsionOf` form I think.

but annihilator does have better API, especially for proving that this family of ideals is `Monotone`:
```lean
private lemma ascending_ideal_b (f : R) : Monotone (ideal_b f) := by
  intro i j hle
  unfold ideal_b
  simp_rw [← Ideal.annihilator_span_singleton_eq_torsionOf]
  apply Submodule.annihilator_mono
  simpa [Submodule.span_le, Set.singleton_subset_iff, SetLike.mem_coe] using
    Ideal.mem_span_singleton.mpr (pow_dvd_pow f hle)
```

But I also think that this `ascending_ideal_b` should be inlined in the only declaration that needs it (currently named `stabilize_ideal_b`), or as you suggest, proved more generally for `torsionOf`.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean (hunk 2 above)
Comment (robin-carlier) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: Also, if you want the _family_ of ideals as `i` varies, you can use `(Ideal.span {f ^ ·})` (surrounding parenthesis are important!).

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 12]
```diff
@@ -0,0 +1,143 @@
...
+            (LinearMap.toSpanSingleton R M (f ^ r • y)) hker).comp
+          (Ideal.quotTorsionOfEquivSpanSingleton R R (f ^ (r + n))).symm.toLinearMap, ?_⟩
+        have hmk : (Ideal.quotTorsionOfEquivSpanSingleton R R (f ^ (r + n))).symm
+            (⟨f ^ (r + n), Ideal.mem_span_singleton_self _⟩ : ideal_p f (r + n))
+            = Submodule.Quotient.mk (1 : R) := by
+          rw [LinearEquiv.symm_apply_eq, Ideal.quotTorsionOfEquivSpanSingleton_apply_mk, one_smul]
+        change (Submodule.liftQ (ideal_b f (r + n))
+            (LinearMap.toSpanSingleton R M (f ^ r • y)) hker)
+            ((Ideal.quotTorsionOfEquivSpanSingleton R R (f ^ (r + n))).symm
+              ⟨f ^ (r + n), Ideal.mem_span_singleton_self _⟩) = f ^ r • y
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]:
```suggestion
        dsimp
```

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 13]
```diff
@@ -0,0 +1,143 @@
...
+    ∃ phi : ideal_p f (r + n) →ₗ[R] M,
+      phi ⟨f ^ (r + n), Ideal.mem_span_singleton_self _⟩ = f ^ r • y := by
+        have hker0 : ideal_b f r ≤ LinearMap.ker (LinearMap.toSpanSingleton R M (f ^ r • y)) := by
+          intro c hc
+          rw [Ideal.mem_torsionOf_iff, smul_eq_mul] at hc
+          rw [LinearMap.mem_ker, LinearMap.toSpanSingleton_apply, smul_smul, hc, zero_smul]
+        have hker : ideal_b f (r + n) ≤
+            LinearMap.ker (LinearMap.toSpanSingleton R M (f ^ r • y)) := by
+          rw [hr n]
+          exact hker0
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]:
```suggestion
          rwa [hr n]
```

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean (hunk 5 above)
Comment (robin-carlier) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: Alternatively, the full have can be grinded to `grind [_=_ map_smul, smul_eq_mul]`, same for the following. `have`.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 14]
```diff
@@ -0,0 +1,143 @@
...
+        rw [← ha, ← g.map_smul, ← g.map_smul]
+        exact congrArg g hz
+      use z
+      have s_mem : f ^ (r + n) ∈ Submonoid.powers f :=
+        (Submonoid.mem_powers_iff (f ^ (r + n)) f).mpr ⟨r + n, rfl⟩
+      have hbij : Function.Bijective
+          (algebraMap R (Module.End R I') (⟨f ^ (r + n), s_mem⟩ : Submonoid.powers f)) :=
+        (Module.End.isUnit_iff _).mp (IsLocalizedModule.map_units g ⟨f ^ (r + n), s_mem⟩)
+      apply hbij.1
+      change f ^ (r + n) • (g z) = f ^ (r + n) • x
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]:
```suggestion
      dsimp
```

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean (hunk 1 above)
Comment (LAC1213) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: I removed this abbreviation and added a theorem about divisibility implying inclusions of torsionOf more generally. Let me know if you think annihilator is better suited.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean (hunk 2 above)
Comment (LAC1213) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: ok, I removed both abbreviations.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean (hunk 9 above)
Comment (LAC1213) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: Yes, I have added a theorem `torsionOf_le_of_div` in Mathlib/Algebra/Module/Torsion/Basic.lean

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 15]
```diff
@@ -34,95 +34,73 @@ universe u
...
-    ∃ (r : ℕ), ∀ (i : ℕ), ideal_b f (r + i) = ideal_b f r := by
-  choose r hr using monotone_stabilizes_iff_noetherian.mpr inferInstance (ideal_b_order_hom f)
+    ∃ (r : ℕ), ∀ (i : ℕ), Ideal.torsionOf R R (f ^ (r + i)) = Ideal.torsionOf R R (f ^ r) := by
+  let ideal_b_order_hom : ℕ →o Ideal R := by
+    refine ⟨fun i ↦ Ideal.torsionOf R R (f ^ i), ?_⟩
+    intro i j hle
+    choose k hk using Nat.exists_eq_add_of_le hle
+    refine Ideal.torsionOf_le_of_div (f ^ i) (f ^ j) ⟨f ^ k, ?_⟩
+    rw [hk, smul_eq_mul]
+    ring
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: Minor golfs are possible here: 
- Usually, when you have a `refine` followed by `intro`, you can fold the `intro` in the refine by using `fun … ↦ ?_` instead of `?_`.
- Here, `hk` is of the form `i = …` where `i` is a free variable in context, and you want to rewrite `hk`, so you can use `obtain` instead of choose to do it all at once.
- Finally, the `smul_eq_smul` part combined with `ring` can also be taken of by `grind`.

So this would look like
```suggestion
    refine ⟨fun i ↦ Ideal.torsionOf R R <| f ^ i, fun i j hle ↦ ?_⟩
    obtain ⟨k, rfl⟩ := Nat.exists_eq_add_of_le hle
    refine Ideal.torsionOf_le_of_div (f ^ i) (f ^ (i + k)) ⟨f ^ k, ?_⟩
    grind [smul_eq_mul]
```

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 16]
```diff
@@ -34,95 +34,73 @@ universe u
...
+  choose r hr using monotone_stabilizes_iff_noetherian.mpr inferInstance ideal_b_order_hom
   use r
   intro i
-  specialize hr (r + i)
-  exact symm (hr (Nat.le_add_right r i))
+  specialize hr (r + i) (Nat.le_add_right r i)
+  exact symm hr
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: `symm hr` is not wrong, but usually to take the symmetric of an equality, we do `hr.symm` (calling directly `Eq.symm`, instead of `Std.symm` which reduces to it). This is very minor though.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 17]
```diff
@@ -34,95 +34,73 @@ universe u
...
-      have hbij : Function.Bijective
-          (algebraMap R (Module.End R I') (⟨f ^ (r + n), s_mem⟩ : Submonoid.powers f)) :=
-        (Module.End.isUnit_iff _).mp (IsLocalizedModule.map_units g ⟨f ^ (r + n), s_mem⟩)
-      apply hbij.1
-      dsimp
-      rw [hz2, smul_smul, ← pow_add]
+  intro x
+  obtain ⟨n, a, ha⟩ : ∃ (n : ℕ) (a : I), g a = f ^ n • x := by
+    obtain ⟨⟨a, s⟩, hs⟩ := IsLocalizedModule.surj (Submonoid.powers f) g x
+    choose n hn using (Submonoid.mem_powers_iff s.1 f).1 s.2
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: Similar as previously, here you immediately destruct `s` into components, and then want to rewrite (or cast) using `hn`, so 
```suggestion
    obtain ⟨⟨a, ⟨s, ps⟩⟩, hs⟩ := IsLocalizedModule.surj (Submonoid.powers f) g x
    obtain ⟨n, rfl⟩ := (Submonoid.mem_powers_iff s f).mp ps
```
is doing this, so `use n, a; exact` becomes `exact ⟨n, a, hs.symm⟩`

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 18]
```diff
@@ -34,95 +34,73 @@ universe u
...
+    exact hn ▸ hs.symm
+  choose r hr using stabilize_ideal_b f
+  choose phi hphi using exists_divide_by_fn_map f n r hr a
+  choose psi hpsi using hI (Ideal.span {f^(r + n)}) phi
+  use psi 1
+  have s_mem : f ^ (r + n) ∈ Submonoid.powers f :=
+    (Submonoid.mem_powers_iff (f ^ (r + n)) f).mpr ⟨r + n, rfl⟩
+  have hbij : Function.Bijective
+    (algebraMap R (Module.End R I') (⟨f ^ (r + n), s_mem⟩ : Submonoid.powers f)) :=
+    (Module.End.isUnit_iff _).mp (IsLocalizedModule.map_units g ⟨f ^ (r + n), s_mem⟩)
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: Here, you are introducing `s_mem` only to be able to form the term `f^(n + r)` as a member of `powers`.
We have `Submonoid.pow` that already bundles it:
```suggestion
  have hbij : Function.Bijective
    (algebraMap R (Module.End R I') <| Submonoid.pow f (r + n)) :=
    (Module.End.isUnit_iff _).mp (IsLocalizedModule.map_units g (Submonoid.pow f (r + n)))
```
but you need to add `Submonoid.pow` to the dsimp call below in order for things to work.

Comment (robin-carlier) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: Arguably, the `have hbij : … := …` followed by `apply `hbij.1` could be folded by
```lean
  apply (Module.End.isUnit_iff _).mp
    (IsLocalizedModule.map_units g (Submonoid.pow f (r + n)))|>.injective
```

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 19]
```diff
@@ -34,95 +34,73 @@ universe u
...
+  apply hbij.1
+  dsimp
+  rw [← g.map_smul, pow_add, <- smul_smul, <- smul_smul, <- ha, <- g.map_smul]
+  apply congrArg g
+  rw [smul_smul, <- pow_add, ← psi.map_smul (f^(r + n)) (1 : R), smul_eq_mul, mul_one, ← hphi]
+  exact hpsi _ _
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: we usually use the unicode backwards arrow instead of `<-` for backwards rewriting.
You can also reorder the operations slightly to merge the two rewrite calls.

**Review by robin-carlier — COMMENTED** [review]
Here are a few more golfing suggestions.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 20]
```diff
@@ -0,0 +1,111 @@
...
+  intro x
+  obtain ⟨n, a, ha⟩ : ∃ (n : ℕ) (a : I), g a = f ^ n • x := by
+    obtain ⟨⟨a, s⟩, hs⟩ := IsLocalizedModule.surj (Submonoid.powers f) g x
+    choose n hn using (Submonoid.mem_powers_iff s.1 f).1 s.2
+    use n, a
+    exact hn ▸ hs.symm
+  choose r hr using stabilize_ideal_b f
+  choose phi hphi using exists_divide_by_fn_map f n r hr a
+  choose psi hpsi using hI (Ideal.span {f^(r + n)}) phi
+  use psi 1
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean:89]: Note that if you are unhappy with carrying the `psi 1` everywhere, you can do what is mathematically sensible, i.e., argue that there is a bijection between `R →ₗ[R] I` and `I` given by evaluation at `1`, so that you work with an element instead of a linear map `psi` and eliminate `psi` from context: this is exactly what 
```suggestion
  obtain ⟨z, rfl⟩ := (LinearMap.ringLmapEquivSelf R R I).symm.surjective psi
  use z
```
would do, at the cost of 1 line.

Comment (LAC1213) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean:89]: I feel like at this point I prefer `psi 1` to be honest. I was just blindly following Hartshorne's notation.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean (hunk 16 above)
Comment (LAC1213) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: I have replaced symm hr by hr.symm accordingly.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean (hunk 19 above)
Comment (LAC1213) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: I have replaced them by unicode arrows and put all the rewrites before applying congrArg g.

File: Mathlib/Algebra/Module/Torsion/Basic.lean [hunk 21]
```diff
@@ -140,6 +140,14 @@ theorem iSupIndep.linearIndependent' {ι R M : Type*} {v : ι → M} [Ring R]
   rw [← Submodule.mem_bot R, ← h_ne_zero i]
   simpa using this
 
+theorem torsionOf_le_of_div {R M : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M]
+  (x : M) (y : M) (hdiv : ∃ r : R, y = r • x) : torsionOf R M x ≤ torsionOf R M y := by
+  intro m hm
+  rw [mem_torsionOf_iff]
+  rw [mem_torsionOf_iff] at hm
```
Comment (NoahW314) [inline Mathlib/Algebra/Module/Torsion/Basic.lean]:
```suggestion
  rw [mem_torsionOf_iff] at hm ⊢
```

File: Mathlib/Algebra/Module/Torsion/Basic.lean [hunk 22]
```diff
@@ -140,6 +140,14 @@ theorem iSupIndep.linearIndependent' {ι R M : Type*} {v : ι → M} [Ring R]
   rw [← Submodule.mem_bot R, ← h_ne_zero i]
   simpa using this
 
+theorem torsionOf_le_of_div {R M : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M]
+  (x : M) (y : M) (hdiv : ∃ r : R, y = r • x) : torsionOf R M x ≤ torsionOf R M y := by
```
Comment (NoahW314) [inline Mathlib/Algebra/Module/Torsion/Basic.lean]:
```suggestion
    (x y : M) (hdiv : ∃ r : R, y = r • x) : torsionOf R M x ≤ torsionOf R M y := by
```

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 23]
```diff
@@ -0,0 +1,107 @@
...
+* [Hartshorne, *Algebraic Geometry*][har77], Lemma III.3.3
+-/
+
+public section
+
+universe u
+
+variable {R : Type u} [CommRing R]
+
+private lemma exists_divide_by_fn_map (f : R) (n : ℕ) (r : ℕ)
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]:
```suggestion
private lemma exists_divide_by_fn_map (f : R) (n r : ℕ)
```

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 24]
```diff
@@ -0,0 +1,107 @@
...
+    (hr : ∀ (i : ℕ), Ideal.torsionOf R R (f ^ (r + i)) = Ideal.torsionOf R R (f ^ r))
+    {M : Type u} [AddCommGroup M] [Module R M] (y : M) :
+    ∃ phi : Ideal.span {f^(r + n)} →ₗ[R] M,
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]:
```suggestion
    ∃ phi : Ideal.span {f ^ (r + n)} →ₗ[R] M,
```
This exists elsewhere as well.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 25]
```diff
@@ -0,0 +1,107 @@
...
+  have hmk : (Ideal.quotTorsionOfEquivSpanSingleton R R (f ^ (r + n))).symm
+      (⟨f ^ (r + n), Ideal.mem_span_singleton_self _⟩ : Ideal.span {f^(r + n)})
+      = Submodule.Quotient.mk (1 : R) := by
+    rw [LinearEquiv.symm_apply_eq, Ideal.quotTorsionOfEquivSpanSingleton_apply_mk, one_smul]
+  dsimp
+  rw [hmk, Submodule.liftQ_apply, LinearMap.toSpanSingleton_apply, one_smul]
+
+variable [IsNoetherianRing R]
+
+private lemma stabilize_ideal_b (f : R) :
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: This lemma could be renamed since the abbrev `ideal_b` no longer exists.  Since it's a private lemma though, I don't think it matters much.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean [hunk 26]
```diff
@@ -0,0 +1,107 @@
...
+  let ideal_b_order_hom : ℕ →o Ideal R := by
+    refine ⟨fun i ↦ Ideal.torsionOf R R <| f ^ i, fun i j hle ↦ ?_⟩
+    obtain ⟨k, rfl⟩ := Nat.exists_eq_add_of_le hle
+    refine Ideal.torsionOf_le_of_div (f ^ i) (f ^ (i + k)) ⟨f ^ k, ?_⟩
+    grind [smul_eq_mul]
+  choose r hr using monotone_stabilizes_iff_noetherian.mpr inferInstance ideal_b_order_hom
+  use r
+  intro i
+  specialize hr (r + i) (Nat.le_add_right r i)
+  exact hr.symm
```
Comment (NoahW314) [inline Mathlib/RingTheory/Noetherian/InjectiveModule.lean]:
```suggestion
  exact (hr (r + i) (Nat.le_add_right r i)).symm
```

**Review by NoahW314 — COMMENTED** [review]
Some minor style comments and golfs.

As a reminder, you can type -awaiting-author to remove the awaiting-author label, and  you should resolve comments that you've addressed.

File: Mathlib/RingTheory/Noetherian/InjectiveModule.lean (hunk 25 above)
Comment (LAC1213) [reply Mathlib/RingTheory/Noetherian/InjectiveModule.lean]: I have renamed it to stabilize_ideal_torsionOf_powers

**Comment by LAC1213** [comment]
Sorry where do I type this? -awaiting-author

**Comment by LAC1213** [comment]
@NoahW314 @robin-carlier Thanks again for the detailed reviews! I believe I have addressed all your comments. Does it look ok now?
